US06706751B2
A solution of 99 mg (0.45 mmol) 5-(6-Fluoro-2,3-dihydro-1H-indol-5-yl)-pent-4-yn-1-ol and 0.155 ml (0.90 mmol) N-Ethyldiisopropylamine in 2 ml CH2Cl2 was treated with 0.125 ml (0.90 mmol) 4-chlorophenyl chloroformate and stirred at room temperature during 1 hour. The mixture was poured into water, extracted with EtOAc and the combined organic layers were dried with MgSO4. Evaporation of the solvent, chromatography on silica gel with CH2Cl2/MeOH 49:1 gave 125 mg (74%) of 6-Fluoro-5-(5-hydroxy-pent-1-ynyl)-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester as a viscous light yellow oil, MS: 374 (MH+, 1Cl).

reactant | 5-(6-Fluoro-2,3-dihydro-1H-indol-5-yl)-pent-4-yn-1-ol | 0.45 mmol, 99 mg | FC1=C(C=C2CCNC2=C1)C#CCCCO | C13H14FNO
reactant | N-Ethyldiisopropylamine | 0.90 mmol, 0.155 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-chlorophenyl chloroformate | 0.90 mmol, 0.125 ml | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | water | O | H2O
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 6-Fluoro-5-(5-hydroxy-pent-1-ynyl)-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester | 125 mg, 74% | ClC1=CC=C(C=C1)OC(=O)N1CCC2=CC(=C(C=C12)F)C#CCCCO | C20H17ClFNO3
